US08134007B2
Methyl 5-(methoxymethyl)isoxazole-4-carboxylate
To a solution of methyl 2-[(dimethylamino)methylene]-4-methoxy-3-oxobutanoate (Preparation 43, 5.2 g, 26 mmol) in methanol (55 ml) was added hydroxylamine hydrochloride (1.8 g, 25.8 mmol) and the reaction stirred at reflux for 7 hours. The reaction was concentrated in vacuo. The solid residue was purified by trituration with ethyl acetate to afford the title compound as a solid (3.6 g, 18% yield).

reactant | methyl 2-[(dimethylamino)methylene]-4-methoxy-3-oxobutanoate | 26 mmol, 5.2 g | CN(C)C=C(C(=O)OC)C(COC)=O | C9H15NO4
reactant | hydroxylamine hydrochloride | 25.8 mmol, 1.8 g | Cl.NO
solvent | methanol | 55 ml | CO | CH4O
product | Methyl 5-(methoxymethyl)isoxazole-4-carboxylate | 3.6 g, 18% yield | COCC1=C(C=NO1)C(=O)OC | C7H9NO4
